US04861785
To a stirred and hot (60° C.) solution of 4.2 parts of 4-[(2-benzothiazolyl)methylamino]-α-[(4-fluorophenoxy)methyl]-1-piperidineethanol in 90 parts of N,N-dimethylformamide were added dropwise 2.3 parts of decanoyl chloride. Upon completion, stirring was continued for 24 hours at 60° C. After cooling to room temperature, the reaction mixture was poured onto water and the whole was treated with sodium hydroxide. The aqueous phase was decanted and the residual product was washed three times with water and dissolved in trichloromethane. The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (Z)-2-butenedioate salt in a mixture of 2-propanone and 2,2'-oxybispropane. The salt was filtered off and dried, yielding 1.1 parts (16%) of [2-[4-[(2-benzothiazolyl)methylamino]-1-piperidinyl]-1-[(4-fluorophenoxy)methyl]ethyl]decanoate (Z)-2-butenedioate(1:1); mp. 134.2° C. (454).

reactant | 4-[(2-benzothiazolyl)methylamino]-α-[(4-fluorophenoxy)methyl]-1-piperidineethanol | S1C(=NC2=C1C=CC=C2)CNC2CCN(CC2)CC(O)COC2=CC=C(C=C2)F | C22H26FN3O2S
reactant | decanoyl chloride | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [2-[4-[(2-benzothiazolyl)methylamino]-1-piperidinyl]-1-[(4-fluorophenoxy)methyl]ethyl]decanoate (Z)-2-butenedioate | 16% | C(\C=C/C(=O)O)(=O)O.S1C(=NC2=C1C=CC=C2)CNC2CCN(CC2)CC(COC2=CC=C(C=C2)F)OC(CCCCCCCCC)=O | InChI=1S/C32H44FN3O3S.C4H4O4/c1-2-3-4-5-6-7-8-13-32(37)39-28(24-38-27-16-14-25(33)15-17-27)23-36-20-18-26(19-21-36)34-22-31-35-29-11-9-10-12-30(29)40-31;5-3(6)1-2-4(7)8/h9-12,14-17,26,28,34H,2-8,13,18-24H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
